US09062032B2
By using 200 mg of methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate and 79 mg of methyl 3-(bromomethyl)benzoate, the reaction similar to Preparation Example 30 was performed, thereby obtaining 220 mg of methyl 3-{[(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)(methyl)amino]methyl}benzoate.

reactant | methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 200 mg | CNCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C41H50N4O4S
reactant | methyl 3-(bromomethyl)benzoate | 79 mg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
product | methyl 3-{[(2-{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)benzyl](pentan-3-yl)amino}ethyl)(methyl)amino]methyl}benzoate | 220 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(CN(CCN(C)CC=1C=C(C(=O)OC)C=CC1)C(CC)CC)C=CC2 | C50H58N4O6S
